US05000775
Ethyl 2-[(1,1-dimethylethyl)amino]-5-(3-chlorophenyl)-4-oxazolecarboxylate
A reaction vessel was charged with 6.5 g (25 mmol) of ethyl 3-chloro-3-(m-chlorophenyl)pyruvate and 2.9 g (25 mmol) of tert-butyl urea. The reaction mixture was heated at 105°-115° C. for 2 hours. The mixture was cooled to ambient temperature and 1.71 g of tert-butyl urea starting material was removed by crystallization in hexane-ethyl acetate solution. The remaining 10.16 g of a brown oil was subjected to Kugelrohr distillation (70°-80° C. @ 0.3 mm Hg) to yield 5.08 g of a gold viscous oil. This oil was chromatographed on silica gel using a Waters Prep 500 system and 10% ethyl acetate-in-hexane eluent to yield product identified in Table 1.

reactant | ethyl 3-chloro-3-(m-chlorophenyl)pyruvate | 25 mmol, 6.5 g | ClC(C(C(=O)OCC)=O)C1=CC(=CC=C1)Cl | C11H10Cl2O3
reactant | tert-butyl urea | 25 mmol, 2.9 g | C(C)(C)(C)NC(=O)N | C5H12N2O
product | Ethyl 2-[(1,1-dimethylethyl)amino]-5-(3-chlorophenyl)-4-oxazolecarboxylate | 5.08 g | CC(C)(C)NC=1OC(=C(N1)C(=O)OCC)C1=CC(=CC=C1)Cl | C16H19ClN2O3
